US08865726B2
To a stirred solution of (S)-tert-butyl 2-(3-(4-(5-(4-isopropyl-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)phenyl)-1H-1,2,4-triazol-1-yl)acetate (66 mg, 0.13 mmol) in DCM (1 mL) was added dropwise TFA (1 mL) at 0° C. under N2. The reaction mixture was stirred at ambient temperature overnight. The solvents were evaporated in vacuo. The residue was dissolved in saturated aqueous NaHCO3 solution and washed with Ether. The aqueous layer was acidified by slow addition of 1N HCl. The mixture was extracted with EtOAc. The combined organic layers were washed with brine, dried and concentrated to give (S)-2-(3-(4-(5-(4-isopropyl-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)phenyl)-1H-1,2,4-triazol-1-yl)acetic acid (48 mg, 82%). LCMS (APCI+) m/z 448.3 [M+H]+.

reactant | (S)-tert-butyl 2-(3-(4-(5-(4-isopropyl-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)phenyl)-1H-1,2,4-triazol-1-yl)acetate | 0.13 mmol, 66 mg | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C2=NN(C=N2)CC(=O)OC(C)(C)C | C26H29N7O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(3-(4-(5-(4-isopropyl-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)phenyl)-1H-1,2,4-triazol-1-yl)acetic acid | 48 mg, 82% | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C2=NN(C=N2)CC(=O)O | C22H21N7O4
